US08912188B2
To a solution of methyl 3-(isopropyl(methyl)amino)-7-methoxy-2-oxo-1,2-dihydroquinoxaline-6-carboxylate (2.0 g, 6.55 mmol) in dichloromethane (80 mL) was added Pyridine (2.0 g, 25.28 mmol) and Tf2O (3.66 g, 12.97 mmol) with stirring overnight under an atmosphere of nitrogen at room temperature. The reaction mixture was then quenched with water (50 mL) and extracted with dichloromethane (3×80 mL). The organic layers were combined and dried over anhydrous magnesium sulfate and concentrated in vacuo to afford methyl 3-(isopropyl(methyl)amino)-7-methoxy-2-(trifluoromethylsulfonyloxy)quinoxaline-6-carboxylate as red oil (2.50 g, crude), which was used in the next step directly.

reactant | methyl 3-(isopropyl(methyl)amino)-7-methoxy-2-oxo-1,2-dihydroquinoxaline-6-carboxylate | 6.55 mmol, 2.0 g | C(C)(C)N(C=1C(NC2=CC(=C(C=C2N1)C(=O)OC)OC)=O)C | C15H19N3O4
reactant | Pyridine | 25.28 mmol, 2.0 g | N1=CC=CC=C1 | C5H5N
reactant | Tf2O | 12.97 mmol, 3.66 g | O(S(=O)(=O)C(F)(F)F)S(=O)(=O)C(F)(F)F | C2F6O5S2
solvent | dichloromethane | 80 mL | ClCCl | CH2Cl2
product | methyl 3-(isopropyl(methyl)amino)-7-methoxy-2-(trifluoromethylsulfonyloxy)quinoxaline-6-carboxylate | C(C)(C)N(C=1C(=NC2=CC(=C(C=C2N1)C(=O)OC)OC)OS(=O)(=O)C(F)(F)F)C | C16H18F3N3O6S
